US07297816B2
(S)-2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-N-[1-carbamoyl-2-(4-chloro-phenyl)-ethyl]-4,5-dichloro-benzamide
The title compound (3 mg, 20%) was prepared from (S)-2-[2-(benzo[1,2,5]thiadiazole-4-sulfonylamino)-4,5-dichloro-benzoylamino]-3-(4-chloro-phenyl)-propionic acid and NH3 (0.5 M in dioxane) as in Example 1, Part C. HPLC: RT=10.08 min. MS (ESI−): mass calcd. for C22H16Cl3N5O4S2, 582.97; m/z found, 582/584 [M−H]−. 1H NMR (400 MHz, CDCl3): 11.34 (s, 1H), 8.37 (dd, J=7.1, 1.0, 1H), 8.24 (dd, J=8.8, 1.0, 1H), 7.84 (s, 1H), 7.73 (dd, J=8.8, 7.1, 1H), 7.36 (s, 1H), 7.36-7.32 (m, 2H), 7.24-7.20 (m, 2H), 6.84 (br d, J=6.9, 1H), 5.47 (br s, 1H), 5.41 (br s, 1H), 4.68 (ddd, J=8.6, 7.0, 5.0, 1H), 3.18 (dd, J=13.7, 4.9, 1H), 3.01 (dd, J=13.6, 8.6, 1H).

reactant | (S)-2-[2-(benzo[1,2,5]thiadiazole-4-sulfonylamino)-4,5-dichloro-benzoylamino]-3-(4-chloro-phenyl)-propionic acid | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)NC2=C(C(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)Cl)C=C(C(=C2)Cl)Cl | C22H15Cl3N4O5S2
reactant | NH3 | 0.5 M | N | H3N
product | (S)-2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-N-[1-carbamoyl-2-(4-chloro-phenyl)-ethyl]-4,5-dichloro-benzamide | 3 mg, 20% | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)NC2=C(C(=O)N[C@@H](CC1=CC=C(C=C1)Cl)C(N)=O)C=C(C(=C2)Cl)Cl | C22H16Cl3N5O4S2
